US04659718
In a similar way to that described in Example 30, 7-fluoro-1-methyl-3-(1-methyl-1H-tetrazol-5-yl)-4-quinolone (1 g) was heated with morpholine (25 ml) at 100° for 103 hours to give 1-methyl-3-(1-methyl-1H-tetrazol-5-yl)-7-morpholino-4-quinolone, m.p. 235°-238°.

reactant | 7-fluoro-1-methyl-3-(1-methyl-1H-tetrazol-5-yl)-4-quinolone | 1 g | FC1=CC=C2C(C(=CN(C2=C1)C)C1=NN=NN1C)=O | C12H10FN5O
reactant | morpholine | 25 ml | N1CCOCC1 | C4H9NO
product | 1-methyl-3-(1-methyl-1H-tetrazol-5-yl)-7-morpholino-4-quinolone | CN1C=C(C(C2=CC=C(C=C12)N1CCOCC1)=O)C1=NN=NN1C | C16H18N6O2
